US07741341B2
(iii) 2-Trichloromethyl-1H-benzoimidazole
To a solution of 10 g Benzene-1,2-diamine in 250 mL acetic acid, 22.8 g 2,2,2-Trichloro-acetimidic acid methyl ester were added drop wise at RT. After 2 h 500 mL toluene were added and the solvents were removed under reduced pressure. The residue was codestilled additional two times with toluene. After drying under reduced pressure the product was pure enough for the next reaction step.

reactant | Benzene-1,2-diamine | 10 g | C=1(C(=CC=CC1)N)N | C6H8N2
reactant | 2,2,2-Trichloro-acetimidic acid methyl ester | 22.8 g | COC(C(Cl)(Cl)Cl)=N | C3H4Cl3NO
reactant | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 250 mL | C(C)(=O)O | C2H4O2
product | 2-Trichloromethyl-1H-benzoimidazole | ClC(C1=NC2=C(N1)C=CC=C2)(Cl)Cl | C8H5Cl3N2
